US05103014
A. 4-Chloromethyl-2-phenylthiazole
A mixture of thiobenzamide (13.7 g, 0.10 mol), 1,3-dichloroacetone (12.7 g, 0.10 mol), sodium bicarbonate (8.4 g, 0.10 mol) and dichloroethane (200 mL) is refluxed for 6 hours. The reaction mixture is cooled to 23° C. and the solid by-products are removed by filtration. The filtrate is concentrated under reduced pressure to give the crude product (19.0 g). This material is recrystallized from hexane and the title product is obtained as a light yellow solid (18.2 g) in 86.0% yield, m.p. 44°-48° C.

reactant | thiobenzamide | 0.10 mol, 13.7 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 1,3-dichloroacetone | 0.10 mol, 12.7 g | ClCC(=O)CCl | C3H4Cl2O
reactant | sodium bicarbonate | 0.10 mol, 8.4 g | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 200 mL | ClC(C)Cl | C2H4Cl2
product | 4-Chloromethyl-2-phenylthiazole | 86.0% yield | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
